US09062092B2
Compound 106a. 4-(1-Hydroxy-ethyl)-tetrahydro-thiopyran-4-carboxylic acid methyl ester
A solution of N,N-diisopropylamine (1.51 g, 2.1 mL, 15 mmol) in anhydrous tetrahydrofuran (10 mL) was stirred at −78° C. under nitrogen. n-Butyl lithium (6 mL, 15 mmol, 2.5 M solution in hexane) was added dropwise and the reaction mixture was stirred at −78° C. for 30 min. A solution of tetrahydro-thiopyran-4-carboxylic acid methyl ester (1.60 g, 10 mmol) in tetrahydrofuran (4 mL) was added and the reaction mixture was stirred at −78° C. for 20 min. Acetaldehyde (1.32 g, 1.7 mL, 30 mmol) was then added in one portion. The cooling bath was removed and the reaction mixture was stirred at room temperature for 1 h. The reaction mixture was cooled to 0° C. and ice-cold hydrochloric acid (2 M) was added to acidify the reaction mixture to pH 2. Sodium chloride was added to saturate the aqueous phase and the mixture was extracted with diethyl ether. The organic extracts were combined and washed with brine. The organic solution was filtered through a hydrophobic frit and the filtrate was evaporated. The residue was purified by silica gel chromatography using a gradient of pentane/diethyl ether 3:1 to 1:3 to afford the title compound (1.77 g, 87%) as a yellow oil. 1H NMR (300 MHz, d6-DMSO): δ 0.96 (d, J=6.5 Hz, 3H), 1.46-1.73 (m, 2H), 2.12-2.28 (m, 2H), 2.43-2.57 (m, 4H), 3.50-3.58 (m, 1H), 3.63 (s, 3H), 4.85 (d, J=5.8 Hz, 1H). LCMS (m/z) 227.1 [M+Na], Tr=1.53 min.

reactant | N,N-diisopropylamine | 15 mmol, 2.1 mL, 1.51 g | C(C)(C)NC(C)C | C6H15N
reactant | n-Butyl lithium | 15 mmol, 2.5 M, 6 mL | C(CCC)[Li]
reactant | tetrahydro-thiopyran-4-carboxylic acid methyl ester | 10 mmol, 1.60 g | COC(=O)C1CCSCC1 | C7H12O2S
reactant | Acetaldehyde | 30 mmol, 1.7 mL, 1.32 g | C(C)=O | C2H4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 4-(1-Hydroxy-ethyl)-tetrahydro-thiopyran-4-carboxylic acid methyl ester | 1.77 g, 87% | COC(=O)C1(CCSCC1)C(C)O | C9H16O3S
